US06399606B1
Propyl 3-{[2-(Acetylamino)ethylthio]methyl}-4-oxo-4-(3-pyridyl)butanoate
A solution of 3-{[2-(acetylamino)ethylthio]methyl}-4-oxo-4-(3-pyridyl)butanoic acid (0.1 g), 1[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (68.1 mg) and 4-dimethylaminopyridine (0.1 eq) in dimethyl formamide (2 mL) was stirred for 24 h. The solution was purified on preparative HPLC (C-18 prep column, 10% to 90% acetonitrile in water both containing 0.1% TFA) to give 0.085 g (75%) of the title compound; ESMS (M+1)+353.

reactant | 3-{[2-(acetylamino)ethylthio]methyl}-4-oxo-4-(3-pyridyl)butanoic acid | 0.1 g | C(C)(=O)NCCSCC(CC(=O)O)C(C=1C=NC=CC1)=O | C14H18N2O4S
reactant | 1[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 68.1 mg | Cl.CN(CCCN=C=NCC)C
catalyst | 4-dimethylaminopyridine | 0.1 eq | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethyl formamide | 2 mL | CN(C=O)C | C3H7NO
product | Propyl 3-{[2-(Acetylamino)ethylthio]methyl}-4-oxo-4-(3-pyridyl)butanoate | 0.085 g, 75% | C(C)(=O)NCCSCC(CC(=O)OCCC)C(C=1C=NC=CC1)=O | C17H24N2O4S
